US07772245B2
A solution of 6-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)nicotinate (12 mg) in dioxane (0.8 mL) was treated with 50% aqueous hydroxylamine (0.2 mL). After 10 minutes the reaction was treated with 1N sodium hydroxide (0.06 mL) and the solution stirred for 72 hours. The reaction was quenched with 1N hydrochloric acid (0.06 mL) and the solvent was evaporated. The residue was purified by preparative hplc and the pure samples freeze dried to give 6-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)-N-hydroxynicotinamide as a yellow solid (7.9 mg), m/e=330 (M+1). 1H NMR (DMSOd6) ppm: 2.8 (2H, m), 3.72 (6H, s) 3.9 (2H, m), 4.7 (2H, s), 6.76 (1H, s), 6.83 (1H, s), 6.9 (1H, d), 7.9 (1H, m), 8.55 (1H, s), 11 (1H, bs).

reactant | 6-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)nicotinate | 12 mg | COC=1C=C2CCN(CC2=CC1OC)C1=NC=C(C(=O)[O-])C=C1
reactant | hydroxylamine | 0.2 mL | NO | H3NO
reactant | sodium hydroxide | 1N, 0.06 mL | [OH-].[Na+]
solvent | dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
product | 6-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)-N-hydroxynicotinamide | 7.9 mg | COC=1C=C2CCN(CC2=CC1OC)C1=NC=C(C(=O)NO)C=C1 | C17H19N3O4
